US08022062B2
4-Cyclopentyloxy-benzonitrile:
Suspend sodium hydride (336 mg, 2.8 mmol, 60% suspension in mineral oil) in anhydrous 1,4-dioxane (10 mL) under nitrogen atmosphere. Add cyclopentanol (620 mg, 7.2 mmol) and stir the resulting solution for 30 min. Add the preformed solution (3.35 mL, 2.4 mmol) to neat 4-fluorobenzonitrile (240 mg, 2 mmol) in a microwave tube and heat the sealed mixture at 100° C. for 30 min. Cool to room temperature and concentrate in vacuo. Purify by chromatography on silica gel eluting with isohexane/EtOAc (95:5 to 1:1 gradient) to obtain the desired intermediate (300 mg, 80%). GC-MS m/z: 187 (M+).

reactant | sodium hydride | 2.8 mmol, 336 mg | [H-].[Na+]
reactant | cyclopentanol | 7.2 mmol, 620 mg | C1(CCCC1)O | C5H10O
reactant | 4-fluorobenzonitrile | 2 mmol, 240 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Cyclopentyloxy-benzonitrile | 300 mg, 80% | C1(CCCC1)OC1=CC=C(C#N)C=C1 | C12H13NO
